US07470664B2
5-Bromo-1-pentene (42.3 mmol) was added to isopropylamine (423 mmol), and the mixture was stirred at 60° C. for 48 h in the dark in a sealed tube. Then the volatiles were evaporated at reduced pressure and the crude residue was dissloved in 50 mL of diethyl ether and washed twice with water. The organic phase was dried over Na2SO4. Evaporation of the solvent gave N-isopropylpent-4-en-1-amine as brownish oil (40%) which was used without any further purification.

reactant | 5-Bromo-1-pentene | 42.3 mmol | BrCCCC=C | C5H9Br
reactant | isopropylamine | 423 mmol | C(C)(C)N | C3H9N
product | N-isopropylpent-4-en-1-amine | 40% | C(C)(C)NCCCC=C | C8H17N
